US07947851B2
Step c) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]-2-fluorobenzoic acid
To a solution of methyl 5-[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]-2-fluorobenzoate (170 mg; 0.33 mmol) in THF (7 mL) were added lithium hydroxide monohydrate (139 mg; 3.31 mmol) and water (3 mL). The reaction mixture was stirred under MW at 100° C. for 2500 s. Then an aqueous solution of HCl (1N) was added and the mixture extracted with EtOAc (2×50 mL). The combined organic layers were washed with brine, dried over magnesium sulfate and the solvent was removed under reduced pressure to give 147 mg (88.9%) of the title compound as a colorless solid. HPLC, Rt: 5.54 min (purity=98.4%), LC/MS: M−(ESI): 498.3. 1H NMR (MeOD) δ: 7.61 (m, 1H), 7.29 (d, J=7.9 Hz, 5H), 7.22 (d, J=7.9 Hz, 2H), 7.08 (d, J=7.9 Hz, 2H), 7.03 (s, 1H), 3.8 (m, 2H), 2.52 (t, J=7.5 Hz, 2H), 1.49 (q, J=7.4 Hz, 4H), 1.25 (m, 8H), 0.82 (m, 6H).

reactant | methyl 5-[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]-2-fluorobenzoate | 0.33 mmol, 170 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(C=2C=CC(=C(C(=O)OC)C2)F)CCCCCC)C=C1 | C33H36FNO3
reactant | lithium hydroxide monohydrate | 3.31 mmol, 139 mg | O.[OH-].[Li+]
reactant | water | 3 mL | O | H2O
reactant | HCl | 1N | Cl | ClH
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzoyl}(hexyl)amino]-2-fluorobenzoic acid | 147 mg, 88.9% | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(C(=O)N(C=2C=CC(=C(C(=O)O)C2)F)CCCCCC)C=C1 | C32H34FNO3
